US05171837
lysine:
1.04 (1), aspartic acid: 2.09 (2), glutamic acid: 2.02 (2), proline: 3.10 (3), valine: 1.90 (2), glycine: 1.95 (2), cystine: 0.44 (0.5), threonine: 3.11 (3), leucine: 1.99 (2), serine: 1.98 (2).

reactant | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | cystine | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | serine | N[C@@H](CO)C(=O)O | C3H7NO3
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
